US08580762B2
7-((3aS,4R,6R,6aR)-6-(((3-(2-(5-bromo-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(methyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine
A solution of N-(2-amino-4-bromophenyl)-3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)propanamide (1.2 g, 1.6 mmol) in Acetic acid (4 ml, 70 mmol) was stirred overnight at 60° C., the volatiles were removed in vacuo and remaining residue purified directly by flash chromatography (DCM/7N NH3 in MeOH 91:9) to give (0.9 g) as a foam.

reactant | N-(2-amino-4-bromophenyl)-3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)propanamide | 1.6 mmol, 1.2 g | NC1=C(C=CC(=C1)Br)NC(CCC1CC(C1)N(C)C[C@H]1C[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C=CC1=C2N=CN=C1NCC1=C(C=C(C=C1)OC)OC)=O | C38H48BrN7O5
reactant | Acetic acid | 70 mmol, 4 ml | C(C)(=O)O | C2H4O2
product | 7-((3aS,4R,6R,6aR)-6-(((3-(2-(5-bromo-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(methyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | BrC1=CC2=C(NC(=N2)CCC2CC(C2)N(C)C[C@H]2C[C@H]([C@H]3[C@@H]2OC(O3)(C)C)N3C=CC2=C3N=CN=C2NCC2=C(C=C(C=C2)OC)OC)C=C1 | C38H46BrN7O4
